US05595995
b) (±)-1-(1-Adamantyl)-3-(3-pyridyl)butan-1-one (via conjugate addition)
To a suspension of cuprous bromide-dimethylsulfide (1.28 g, 6.25 mmol) in THF (20 ml) cooled to -18° C., was added dropwise methyllithium (1.4 M; 8.93 ml, 12.5 mmol) in ether. The resulting clear solution was left to stir for a further 45 minutes before a solution of 1-(1-adamantyl)-3-(3-pyridyl)-2-propen-1-one (1.34 g, 5.0 mmol) in THF (8 ml) was added at -18° C. After 4 hours at 0° C. the reaction mixture was quenched with aqueous ammonium hydroxide solution and extracted with ether. The ether extracts were combined, dried (Na2CO3) and concentrated. Chromatography, on elution with petrol-ether-triethylamine 125:50:1, provided the title compound (1.16 g, 82%) as an oil. Analytical data were the same as given in Example 10.

reactant | methyllithium | 12.5 mmol, 1.4 M, 8.93 ml | C[Li]
reactant | 1-(1-adamantyl)-3-(3-pyridyl)-2-propen-1-one | 5.0 mmol, 1.34 g | C12(CC3CC(CC(C1)C3)C2)C(C=CC=2C=NC=CC2)=O | C18H21NO
solvent | THF | 20 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | THF | 8 ml | C1CCOC1 | C4H8O
product | (±)-1-(1-Adamantyl)-3-(3-pyridyl)butan-1-one | 1.16 g, 82% | C12(CC3CC(CC(C1)C3)C2)C(CC(C)C=2C=NC=CC2)=O | C19H25NO
